US09029544B2
(S)—((S)-5-(tert-butyldimethylsilyloxy)-4-iodo-2-isopropyl-7,7-dimethyl-5,6,7,8-tetrahydroquinolin-3-yl)(4-(trifluoromethyl)phenyl)methanol
1.1 ml 4-iodobenzotrifluoride are dissolved in 60 ml tetrahydrofurane and cooled to −20° C. 3.7 ml of a 2 M solution of isopropylmagnesium chloride in tetrahydrofurane are added dropwise and the solution is stirred for further 5 hours. Then the solution is cooled to −40° C. and 1.17 g (S)-5-(tert-butyldimethylsilyloxy)-4-iodo-2-isopropyl-7,7-dimethyl-5,6,7,8-tetrahydroquinoline-3-carbaldehyde in 5 ml tetrahydrofurane are added dropwise. The mixture is stirred for 12 hours while warming to room temperature. Then it is cooled to 0° C., 10 ml methanol are added and it is stirred for 30 minutes. The solvents are evaporated in vacuo and the residue is chromatographed on silica gel (cyclohexane/ethylacetate 95:5 to 80:20).

reactant | 4-iodobenzotrifluoride | 1.1 ml | IC1=CC=C(C=C1)C(F)(F)F | C7H4F3I
reactant | isopropylmagnesium chloride | C(C)(C)[Mg]Cl
reactant | (S)-5-(tert-butyldimethylsilyloxy)-4-iodo-2-isopropyl-7,7-dimethyl-5,6,7,8-tetrahydroquinoline-3-carbaldehyde | 1.17 g | [Si](C)(C)(C(C)(C)C)O[C@@H]1C=2C(=C(C(=NC2CC(C1)(C)C)C(C)C)C=O)I | C21H34INO2Si
reactant | methanol | 10 ml | CO | CH4O
solvent | tetrahydrofurane | 60 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofurane | 5 ml | O1CCCC1 | C4H8O
product | (S)—((S)-5-(tert-butyldimethylsilyloxy)-4-iodo-2-isopropyl-7,7-dimethyl-5,6,7,8-tetrahydroquinolin-3-yl)(4-(trifluoromethyl)phenyl)methanol | [Si](C)(C)(C(C)(C)C)O[C@@H]1C=2C(=C(C(=NC2CC(C1)(C)C)C(C)C)[C@@H](O)C1=CC=C(C=C1)C(F)(F)F)I | C28H39F3INO2Si
